US07122557B2
Part B: According to the procedure described Example 57, part C, 1.14 g (5.9 mmol) of (4-nitrophenyl)(pyrrolidin-1-yl)methanimine were reacted with methane sulfonyl chloride to yield N,N-dimethyl-N′-(methylsulfonyl)-4-nitrobenzamidine (890 mg).

reactant | (4-nitrophenyl)(pyrrolidin-1-yl)methanimine | 5.9 mmol, 1.14 g | [N+](=O)([O-])C1=CC=C(C=C1)C(=N)N1CCCC1 | C11H13N3O2
reactant | methane sulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
product | N,N-dimethyl-N′-(methylsulfonyl)-4-nitrobenzamidine | 890 mg | CN(C(C1=CC=C(C=C1)[N+](=O)[O-])=NS(=O)(=O)C)C | C10H13N3O4S
